US06559172B1
Preparation of (4R*,5R*)-5-(4-Chloro-3-fluoro-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole
In a manner analogous to Preparation 1, tosylmethylisocyanide (0.30 g, 1.52 mmol), 4-chloro-3-fluorobenzaldehyde (0.25 g, 1.60 mmol) and NaCN (10 mg, 0.20 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 373.5 (M+Na+).

reactant | tosylmethylisocyanide | 1.52 mmol, 0.30 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | 4-chloro-3-fluorobenzaldehyde | 1.60 mmol, 0.25 g | ClC1=C(C=C(C=O)C=C1)F | C7H4ClFO
reactant | NaCN | 0.20 mmol, 10 mg | [C-]#N.[Na+]
product | (4R*,5R*)-5-(4-Chloro-3-fluoro-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole | ClC1=C(C=C(C=C1)[C@@H]1[C@H](N=CO1)S(=O)(=O)C1=CC=C(C=C1)C)F | C16H13ClFNO3S
